US04888423
6-(3,5-Di-tert-butyl-4-hydroxyphenyl)-4,5-dihydro-3(2H)-pyridazinone
A mixture of 22 g (0.07 mol) methyl 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-4-oxo-butanoate and 6.8 g (0.18 mol) of 85% aqueous hydrazine in 250 ml of ethanol is heated under reflux. The reaction is considered complete by the disappearance of the starting material as indicated by TLC analysis (silica gel; 7/3: hexane/ethyl acetate). Upon cooling the reaction mixture, 18.0 g (85% yield) of white crystals are collected by filtration: mp 200°-203° C.; IR (CH2Cl2) 3640, 3420, 3250 and 1680 cm-1.

reactant | methyl 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-4-oxo-butanoate | 0.07 mol, 22 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(CCC(=O)OC)=O | C19H28O4
reactant | hydrazine | 0.18 mol, 6.8 g | NN | H4N2
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 6-(3,5-Di-tert-butyl-4-hydroxyphenyl)-4,5-dihydro-3(2H)-pyridazinone | 18.0 g, 85% yield | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1CCC(NN1)=O | C18H26N2O2
